US05087691
1,4-bis(4-aminophenyl)-2,3,5,6-tetraphenylbenzene was prepared according to the procedure set forth in Example 2 with 1,4-bis(4-nitrophenyl)-2,3,5,6-tetraphenylbenzene being used at the same molar amount as 1,4-bis(4-nitrophenyl)-2,3,5-triphenylbenzene in Example 3, but the yield was only 45%. The crude product was recrystallized from pyridine.

reactant | 1,4-bis(4-nitrophenyl)-2,3,5,6-tetraphenylbenzene | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C(=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)C1=CC=CC=C1 | C42H28N2O4
reactant | 1,4-bis(4-nitrophenyl)-2,3,5-triphenylbenzene | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C(=C(C(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)C1=CC=CC=C1 | C36H24N2O4
product | 1,4-bis(4-aminophenyl)-2,3,5,6-tetraphenylbenzene | NC1=CC=C(C=C1)C1=C(C(=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)N)C1=CC=CC=C1)C1=CC=CC=C1 | C42H32N2
